US08461159B2
1-Boc-4-methylene piperidine (1.32 g, 6.70 mmol) was degassed (neat) for 15 minutes, and then treated with a THF solution of 9-BBN (0.5 M in THF, 13.5 mL, 6.75 mmol). The reaction mixture was refluxed for 2 h, then cooled to r.t. The reaction mixture was then added, via cannula, to a preformed solution consisting of 4-bromo-1,2-dichlorobenzene (1.49 mg, 6.64 mmol), Pd(dppf)Cl2 dichloromethane complex (148 mg, 0.181 mmol), and potassium carbonate (1.20 g, 8.68 mmol) in DMF/H2O (15 mL/1.5 mL). The resultant mixture was heated at 60° C. for 48 h, cooled to r.t., poured into water, basified to pH 11 with 1N NaOH, and extracted with EtOAc (3×). The organic layers were combined, dried (Na2SO4), and concentrated. The crude residue was purified (FCC) to give 4-(3,4-dichloro-benzyl)-piperidine-1-carboxylic acid tert-butyl ester (1.57 g, 69%).

reactant | 1-Boc-4-methylene piperidine | 6.70 mmol, 1.32 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=C | C11H19NO2
reactant | 9-BBN | 6.75 mmol, 0.5 M, 13.5 mL | B1C2CCCC1CCC2 | C8H15B
reactant | 4-bromo-1,2-dichlorobenzene | 6.64 mmol, 1.49 mg | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | potassium carbonate | 8.68 mmol, 1.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF H2O | 15 mL | CN(C)C=O.O
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3,4-dichloro-benzyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.57 g, 69% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC(=C(C=C1)Cl)Cl | C17H23Cl2NO2
